US09023847B2
132. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-amino-1-(4-trifluoromethyl-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using tert-butyl [2-amino-2-(4-trifluoromethylphenyl)ethyl]carbamate instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 446 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.48 (1H, br. s.) 10.92 (1H, s) 9.40 (1H, d, J=8.00 Hz) 8.28 (3H, br. s.) 8.01 (1H, d, J=6.83 Hz) 7.95 (1H, d, J=5.27 Hz) 7.53-7.58 (2H, m) 7.47-7.52 (2H, m) 7.43 (1H, d, J=2.54 Hz) 7.31 (1H, d, J=5.27 Hz) 7.00 (1H, br. s.) 6.55 (1H, d, J=7.03 Hz) 5.39 (1H, td, J=8.79, 4.30 Hz) 3.19 (1H, t, J=10.93 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | tert-butyl [2-amino-2-(4-trifluoromethylphenyl)ethyl]carbamate | NC(CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C(F)(F)F | C14H19F3N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-amino-1-(4-trifluoromethyl-phenyl)-ethyl]-amide | NCC(C1=CC=C(C=C1)C(F)(F)F)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H18F3N5OS
